US05965614
Synthesis of N-(4-ethylphenyl)alanine methyl ester
A solution of 0.68 g (5 mmol) of 4'-aminoacetophenone (Aldrich), 0.60 mL of 90% methyl pyruvate (Aldrich) and 0.05 g (0.25 mmol) of p-toluenesulfonic acid in ethanol was hydrogenated in the presence of a catalytic amount of 10% Pd/C at from 30 to 15 psi of hydrogen for 16 hours. The catalyst was removed by filtering the reaction mixture through Celite and the solvent was evaporated to provide the crude product. The product was purified by column chromatography (silica gel using 1:9 EtOAc/hexanes as the eluant) to provide the title compound.

reactant | 4'-aminoacetophenone | 5 mmol, 0.68 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | methyl pyruvate | 0.60 mL | C(C(=O)C)(=O)OC | C4H6O3
reactant | p-toluenesulfonic acid | 0.25 mmol, 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | N-(4-ethylphenyl)alanine methyl ester | COC([C@@H](NC1=CC=C(C=C1)CC)C)=O | C12H17NO2
